US07579351B2
8-(3-Chloro-propoxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The suspension consistent of 0.5 g (2.4 mmol) 8-hydroxy-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one (example 1, intermediate a), 0.41 g (2.6 mmol) potassium carbonate and 0.29 ml (0.47 g, 3.0 mmol) 1-bromo-3-chloropropane in 12 ml 2-butanone was heated under reflux for 64 hours. The reaction mixture was evaporated to dryness to give a light brown solid containing the desired product together with some starting material (0.58 g, 55%). This mixture was used in the next step without further purification.

reactant | 8-hydroxy-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 2.4 mmol, 0.5 g | OC1=CC=2C=C3N(C2C=C1)CCNC3=O | C11H10N2O2
reactant | potassium carbonate | 2.6 mmol, 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 3.0 mmol, 0.29 ml, 0.47 g | BrCCCCl | C3H6BrCl
solvent | 2-butanone | 12 ml | CC(CC)=O | C4H8O
product | 8-(3-Chloro-propoxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | ClCCCOC1=CC=2C=C3N(C2C=C1)CCNC3=O | C14H15ClN2O2
